US07157447B2
Diethyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate.
A solution of intermediate 174, N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.200 g, 0.35 mmol) and triphenylphosphine (0.020 mg) in ethanol (5 ml) was flushed with argon and then treated with N,N-diisopropylethylamine (0.25 ml, 1.4 mmol), palladium(11) acetate (0.020 g) and diethyl phosphite (0.15 ml, 1.16 mmol). The reaction mixture was then sealed and heated at 80° C. for 18 h. The reaction mixture was then diluted with ethyl acetate, washed with 0.1 N hydrochloric acid, saturated sodium bicarbonate, brine, then dried over anhydrous magnesium sulfate and concentrated. Chromatography of the residue on silica gel (elution gradient of acetonitrile in dichloromethane) gave 0.103 g (51% yield) of the title compound as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.36 (6H, t, J=6.6 Hz, 2×CH3), 1.64 (6H, s, 2×CH3), 4.04 (4H, m, 2×CH2), 4.08–4.22 (4H, m, 2×OCH2), 4.78 (2H, d, J=6.6 Hz, NCH2), 5.29 (2H, s, OCH2), 7.21 (1H, m, aromatic), 7.29–7.34 (3H, m, aromatics), 7.45–7.52 (3H, m, aromatics), 7.65–7.72 (1H, m, aromatic), 8.67 (1H, broad t, NH). HRMS (ESI+) calculated for C28H34FN3O7P [M+H+]: 574.2118. found: 574.2126.

reactant | N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.35 mmol, 0.200 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | N,N-diisopropylethylamine | 1.4 mmol, 0.25 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethyl phosphite | 1.16 mmol, 0.15 ml | P(OCC)(OCC)[O-]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(11) acetate | 0.020 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.020 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Diethyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate | 0.103 g, 51% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C=C(C=C1)F)P(OCC)(OCC)=O | C28H33FN3O7P
